US07595327B2
A mixture of 4-(1-phenyl-ethyl amino)-1-(2-vinyl-but-2-enyl)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester (6.0 g, 17.02 mmol) and 20% palladium hydroxide on carbon (2 g) in methanol (20 mL) was stirred under a hydrogen balloon for 19 h. The mixture was then filtered through a thin pad of celite and concentrated to provide 4-(1-phenyl-ethylamino)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester as a colorless oil (4.5 g, 90%). MS: 261 (M+H)+.

reactant | 4-(1-phenyl-ethyl amino)-1-(2-vinyl-but-2-enyl)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 17.02 mmol, 6.0 g | COC(=O)C=1CN(CCC1NC(C)C1=CC=CC=C1)CC(=CC)C=C | C21H28N2O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 2 g | [OH-].[OH-].[Pd+2]
product | 4-(1-phenyl-ethylamino)-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 4.5 g, 90% | COC(=O)C=1CNCCC1NC(C)C1=CC=CC=C1 | C15H20N2O2
